US07947715B2
Step 7: Preparation of N-butyryl-2-chloro-4-[5-(3,5-dibromo-4-fluorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]benzylamine
To a solution of 3-(4-aminomethyl-3-chlorophenyl)-5-(3,5-dibromo-4-fluorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole (70.0 mg) and triethylamine (15.0 mg) in dichloromethane (2 mL) was added butyryl chloride (15.4 mg) at 5° C. The reaction mixture was then stirred at room temperature for 1 hour. The resulting mixture was diluted with chloroform (2 mL) and washed with saturated aqueous sodium hydrogencarbonate solution (3 mL) and brine. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to provide a residue. The residue was purified by liquid chromatography (medium pressure collection apparatus: Purif-α2 manufactured by Moritex Corporation) eluted with ethyl acetate-hexane (1:10) to afford the title compound as a colorless resin (42.0 mg).

reactant | 3-(4-aminomethyl-3-chlorophenyl)-5-(3,5-dibromo-4-fluorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole | 70.0 mg | NCC1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Br)F)Br)Cl | C17H11Br2ClF4N2O
reactant | triethylamine | 15.0 mg | C(C)N(CC)CC | C6H15N
reactant | butyryl chloride | 15.4 mg | C(CCC)(=O)Cl | C4H7ClO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | N-butyryl-2-chloro-4-[5-(3,5-dibromo-4-fluorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]benzylamine | C(CCC)(=O)NCC1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Br)F)Br)Cl | C21H17Br2ClF4N2O2
